* E:\Universiteit\Master\7 Q2 - 2021\EE4109-Structured-Electronic-Design\cir\Biasing\BiasingCurrentSource.asc
M1 N002 N002 N003 substrateGround C18nmos l=360n w=35u m=4
R1 N003 0 100
R2 N001 N002 3.62k
V1 N001 0 1.8
V2 0 substrateGround 20m
M2 N001 N002 N004 substrateGround C18nmos l=360n w=35u m=40
R3 N004 0 10
M3 N001 N002 N005 substrateGround C18nmos l=360n w=35u m=80
R4 N005 0 5
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\tomsa\Documents\LTspiceXVII\lib\cmp\standard.mos
.op
.lib 'E:\Universiteit\Master\7 Q2 - 2021\EE4109-Structured-Electronic-Design\cir\CMOS18TT.lib'
.lib 'C:\Program Files\LTC\LTspiceXVII\lib\cmp\log018.l' TT
.backanno
.end
