* E:\Universiteit\Master\7 Q2 - 2021\EE4109-Structured-Electronic-Design\cir\Biasing\BiasingCurrentSource.asc
M1 N003 N003 N007 substrateGround C18nmos l=360n w=35u m=4
R1 N007 0 100
R2 N001 N003 3.62k
V1 N001 0 1.8
V2 0 substrateGround 20m
M2 N001 N003 N008 substrateGround C18nmos l=360n w=35u m=80
R3 N008 0 5
R4 N006 0 3.62k
R5 N002 N004 100
V3 N002 0 1.8
R6 N002 N005 10
M5 N004 N006 N006 N002 C18pmos l=180n w=40u m=4
M6 N005 N006 0 N002 C18pmos l=180n w=40u m=40
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\tomsa\Documents\LTspiceXVII\lib\cmp\standard.mos
.op
.lib 'E:\Universiteit\Master\7 Q2 - 2021\EE4109-Structured-Electronic-Design\cir\CMOS18TT.lib'
.lib 'C:\Program Files\LTC\LTspiceXVII\lib\cmp\log018.l' TT
.backanno
.end
